US06153770
10 g of furfurylmercaptan and 15 g of 3-penten-2-one were dissolved in 100 ml of ethanol. The solution was stirred at room temperature for 48 hours. The solvent was then distilled off in vacuo at 50° C. The residue (18 g) was purified by preparative high pressure liquid chromatography (HPLC). 9 g of 4-[(furylmethyl)thio]-2-pentanone (purity 95%) were obtained. The IR, NMR and mass spectra of the compound agree with the structure described for it.

reactant | furfurylmercaptan | 10 g | C(C1=CC=CO1)S | C5H6OS
reactant | 3-penten-2-one | 15 g | CC(C=CC)=O | C5H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[(furylmethyl)thio]-2-pentanone | 9 g | O1C(=CC=C1)CSC(CC(C)=O)C | C10H14O2S
